US04371645
Bis(3,4-dichlorobenzylidene)sorbitol was prepared from aqueous sorbitol and 3,4-dichlorobenzaldehyde according to the method of Example 1. The melting point of the product was 270° C.

reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | 3,4-dichlorobenzaldehyde | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
product | Bis(3,4-dichlorobenzylidene)sorbitol | ClC=1C=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC(=C(C=C2)Cl)Cl)O)O)O)O)O)C=CC1Cl | C20H18Cl4O6
